US05436260
(E)-4-[[2-Butyl-5-[(2,5-dioxo-3-methyl-4-imidazolidinylidene)methyl ]-1H-imidazol-1-yl]methyl]benzoic acid
This compound is prepared by a procedure similar to Example 1 except that the starting materials are the ester derivative, 2-butyl-1-(4-carbomethoxybenzyl)-5-formylimidazole, and 1-methylhydantoin. The crude mixed isomer products are purified and separated by silica gel column chromatography, eluting with 0.1:1.5:10 glacial acetic acid-methanol-chloroform. The "slow" moving material is the (E) isomer; tlc (0.1:2:10 acetic acid-methanol-chloroform system) 1 spot, Rf 0.5; mp 219°-221° C.; nmr (DMSO-d6), vinyl proton at δ 5.96 ppm; MS (CI) 383 (M39 +1).

reactant | 2-butyl-1-(4-carbomethoxybenzyl)-5-formylimidazole | C(CCC)C=1N(C(=CN1)C=O)CC1=CC=C(C=C1)C(=O)OC | C17H20N2O3
reactant | 1-methylhydantoin | CN1C(=O)NC(=O)C1 | C4H6N2O2
product | (E)-4-[[2-Butyl-5-[(2,5-dioxo-3-methyl-4-imidazolidinylidene)methyl ]-1H-imidazol-1-yl]methyl]benzoic acid | C(CCC)C=1N(C(=CN1)/C=C\1/N(C(NC1=O)=O)C)CC1=CC=C(C(=O)O)C=C1 | C20H22N4O4
